US08067445B2
Step 3: (S)-2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid methyl ester
(S)-2-(2′-ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid methyl ester and benzyl isocyanate.

reactant | (S)-2-(2′-ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid methyl ester | COC([C@@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H21F6NO2
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | (S)-2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid methyl ester | COC([C@@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C29H28F6N2O3
